US04959385
(±)-1-[(4-chlorobutyl)sulphinylmethyl]-4-phenylbenzene.
(±)-2-(3-cyanophenyl)tetrahydrothiopyran-1-oxide (mixture of cis/trans isomers), a colourless solid, melting point 116°-117° C., from (±)-3-cyano-1-[(4-chlorobutyl)sulphinylmethyl]benzene.

reactant | (±)-2-(3-cyanophenyl)tetrahydrothiopyran-1-oxide | C(#N)C=1C=C(C=CC1)C1S(CCCC1)=O | C12H13NOS
reactant | (±)-3-cyano-1-[(4-chlorobutyl)sulphinylmethyl]benzene | C(#N)C=1C=C(C=CC1)CS(=O)CCCCCl | C12H14ClNOS
product | (±)-1-[(4-chlorobutyl)sulphinylmethyl]-4-phenylbenzene | ClCCCCS(=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C17H19ClOS
